* gnetlist -g spice-sdb -o schmitt.trigger.cir schmitt.trigger.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from ./models/OPA337.LIB vvvvvvvv
* OPA337
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: OPA337
* Date: 13JUN2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS077B - JUNE 1997 - REVISED MARCH 2005
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* This model is applicable to OPA337, OPA2337
*                 connections:   non-inverting input
*      		                 |  inverting input
*		                 |  |  positive power supply
*		                 |  |  |   negative power supply
*		                 |  |  |   |   output
*		                 |  |  |   |   |
*		.subckt OPA337   1  2  3   4   5
*
* Note that node "4" may be connected to ground "0", i.e., single supply operation.
*
* ADD .OPTIONS ITL=40 AND .OPTIONS GMIN=10p TO NET LIST IF SIMULATION DOES NOT
*      CONVERGE
**
*
* connections:   non-inverting input
*                |  inverting input
*                |  |  positive power supply
*                |  |  |   negative power supply
*                |  |  |   |   output
*                |  |  |   |   |
.subckt OPA337  1  2  3   4   5
*
*** First Stage ***
ITAIL1    3 23  DC 15U
RGNDS    GNDS 4  0.01
M24      29 1  23 3  PCH W=500U L=2U 
M23      25 2  23 3  PCH W=500U L=2U 
R25      25 4  RPO2 100K
R29      29 4  RPO2 100K
I20      20 4  DC 1U
R20      3 20  2.3MEG
G23      3 23 poly(1) 20 23 10e-6 10e-6
***********************************************
I34      3 34  DC 2.5U
I32      3 32  DC 2.5U
R32      32 25  493K
R34      34 29  493K
*** Second Stage ***
ITAIL2   27 4  DC 50U
M43      43 34 27  GNDS NCH W=12.5U L=1U     M=2  
M45      45 32 27  GNDS NCH W=12.5U L=1U     M=2  
*************************************************************************
M47      43 43 3  3 PCH W=60U L=4U     M=1  
M49      45 43 3  3 PCH W=60U L=4U     M=1  
V64      3 64  DC 2.1
V60      60 62  DC 1.2
V62      62 4  DC 1.0
ITAIL3   51 4  DC 30U
M53      53 45 51  GNDS NCH W=15U L=1U     M=1  
M55      55 60 51  GNDS NCH W=15U L=1U     M=1  
M61      4 64 55 55  PCH W=45U L=1U     M=1  
M57      53 53 3  3 PCH W=50U L=4U     M=2  
M59      55 53 3  3 PCH W=50U L=4U     M=4  
M67      55 55 67  3 PCH W=5U L=5U     M=1  
M74      45 51 62  GNDS NCH W=5U L=1U     M=1  
R67      3 67  RNW 5K
M71      76 55 3  3 PCH W=45U L=1U     M=18
M73      76 51 4  GNDS NCH W=15U L=1U     M=18
R76      76 5   RPO2 250
RC1      44 76  RPO2 350
CM1      29 44  CP1P2 25P
RC2      54 4  RPO2 350
CM2      25 54  CP1P2 25P
C45      47 76  CP1P2 6P
R47      45 47  RPO2 1K
* MODELS for LEVEL 3 PSpice
.model dx d(rs=1 cjo=0.1p)
.model nix nmos(vto=0.75 kp=205.5u rd=1 rs=1 rg=1 rb=1 cgso=4e-9
+cgdo=4e-9 cgbo=16.667e-9 cbs=2.34e-13 cbd=2.34e-13)
.model nox nmos(vto=0.75 kp=195u rd=.5 rs=.5 rg=1 rb=1 cgso=66.667e-12
+cgdo=66.667e-12 cgbo=125e-9 cbs=2.34e-13 cbd=2.34e-13)
.model pix pmos(vto=-0.75 kp=205.5u rd=1 rs=1 rg=1 rb=1 cgso=4e-9
+cgdo=4e-9 cgbo=16.667e-9 cbs=2.34e-13 cbd=2.34e-13)
.model pox pmos(vto=-0.75 kp=195u rd=.5 rs=.5 rg=1 rb=1 cgso=66.667e-12
+cgdo=66.667e-12 cgbo=125e-9 cbs=2.34e-13 cbd=2.34e-13)

.MODEL PCH PMOS (LEVEL=3 TOX=30E-9 CGDO=1.80e-10 CGSO=1.80e-10 CJ=7.199E-4 CJSW=3.40E-10
+AF=1.05 KF=1.0e-31 JS=4.0e-7 JSSW=3.0e-13 RSH=117 MJ=.47 MJSW=.16 VFB=-0.34 PHI=0.71 VTO=-.892
+LD=12E-9 WD=43E-9 TPG=+1 GAMMA=0.6)

.MODEL NCH NMOS (LEVEL=3 TOX=30E-9 CGDO=1.55e-10 CGSO=1.55e-10 CJ=6.300E-4 CJSW=3.83E-10
+AF=1.05 KF=2.6e-31 JS=2.0e-7 JSSW=5e-13 RSH=68 MJ=.25 MJSW=.11 VFB=-0.784 PHI=0.792 VTO=.81
+LD=34E-9 WD=17E-9 TPG=-1 GAMMA=0.6)

.MODEL RPO2 RES (R=1 TC1=6.3e-4 TC2= 1.1e-6)
.MODEL RNW  RES (R=1 TC1=5.5e-3 TC2=-1.3e-5)
.MODEL CP1P2 CAP (C=1)
.ENDS 
* ENDS OPA337
*^^^^^^^^  End of included SPICE model from ./models/OPA337.LIB ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
.INCLUDE ./Sim.cmd
.INCLUDE ./models/OPA337.LIB
Rl out 0 1Meg  
Rfb out not_inv $Rfb  
Rbias1 not_inv 2 $Rbias1  
Vin 1 0 dc 0 ac SIN(1.5 1.5 40Hz)
Rbias2 0 not_inv $Rbias2  
X1 not_inv in 2 0 out OPA337
Vdc 2 0 DC 3V
Vnoise in 1 dc 0 ac SIN(0.1 0 1kHz)
.end
* This is a test $test